US06331538B1
2-Amino-N-benzyloxy-3,4,5,6-tetrafluoro-benzamide
Following the procedure for Example A, 2-amino-3,4,5,6-tetrafluorobenzoic acid (3.0 g, 14.4 mmol) was reacted with carbonyldiimidazole (2.8 g, 17.2 mmol), O-benzylhydroxylamine hydrochloride (3.44 g, 21.5 mmol), and triethylamine (3.0 mL, 21.5 mmol) in THF (50 mL) to provide 4.8 g of the title compound.

reactant | 2-amino-3,4,5,6-tetrafluorobenzoic acid | 14.4 mmol, 3.0 g | NC1=C(C(=O)O)C(=C(C(=C1F)F)F)F | C7H3F4NO2
reactant | carbonyldiimidazole | 17.2 mmol, 2.8 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | O-benzylhydroxylamine hydrochloride | 21.5 mmol, 3.44 g | Cl.C(C1=CC=CC=C1)ON
reactant | triethylamine | 21.5 mmol, 3.0 mL | C(C)N(CC)CC | C6H15N
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 2-Amino-N-benzyloxy-3,4,5,6-tetrafluoro-benzamide | 4.8 g | NC1=C(C(=O)NOCC2=CC=CC=C2)C(=C(C(=C1F)F)F)F | C14H10F4N2O2
